US04369184
A mixture of 4.5 parts of 4-oxo-1-(2-pyridinyl)cyclohexanecarbonitrile, 5.2 parts of ethyl 4-phenyl-4-piperidinecarboxylate, 1 part of 4-methylbenzenesulfonic acid and 225 parts of methylbenzene is stirred and refluxed overnight using a water-separator. The reaction mixture is evaporated and the residue is crystallized from 2-propanol, yielding 4.5 parts (45%) of ethyl 1-[4-cyano-4-(2-pyridinyl)-1-cyclohexeneyl]-4-phenyl-4-piperidinecarboxylate; mp. 160° C.

reactant | 4-oxo-1-(2-pyridinyl)cyclohexanecarbonitrile | O=C1CCC(CC1)(C#N)C1=NC=CC=C1 | C12H12N2O
reactant | ethyl 4-phenyl-4-piperidinecarboxylate | C1(=CC=CC=C1)C1(CCNCC1)C(=O)OCC | C14H19NO2
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
solvent | water | O | H2O
product | ethyl 1-[4-cyano-4-(2-pyridinyl)-1-cyclohexeneyl]-4-phenyl-4-piperidinecarboxylate | 45% | C(#N)C1(CC=C(CC1)N1CCC(CC1)(C(=O)OCC)C1=CC=CC=C1)C1=NC=CC=C1 | C26H29N3O2
